datasets/10k_Mayr_OG.csv
SMILES Labelled
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>COC1=CC=C(C[C:10]2([C:20]3(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]3Cl)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CC[O:72][C:61]([C:10]1([C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.NC1=NC=N[C:61]2=[C:62]1[N-:12][CH:11]=[N:10]2>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([N:10]1[CH:11]=[N:12][C:62]3=[C:61]1N=CN=C3N)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C[C:65]1=[CH:64][CH:63]=[C:62]([CH:11]=[CH2:10])[CH:73]=[CH:75]1>>C[C:65]1=[CH:64][CH:63]=[C:62]([CH+:11][CH2:10][C:20]([O-:21])=[N:31]C2=CC=CC=C2)[CH:73]=[CH:75]1 10,11=10,20;20,21=21"
"C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:61](=[O:62])CC[C:71]2=[O:72])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([N:10]2[C:11](=[O:12])[C:72]3=[C:73](C=CC=C3)[C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>C[C:22]1=[C:21]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CN(C)C1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CN(C)C1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[O:62])C=C1 10,11=10,20"
"CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])=[CH:62]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([H:10])C5C1C2C3C54>>CC[O:33][C:22](=[CH:21][CH:20]([H:10])[C:41](=[O:42])[O:52]CC)[O-:23].[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[N+:11]([O-:12])[O-:62])[CH:83]=[CH:82]1>>C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]2CCC[C:22]([O-:23])=[CH:21]2)[CH:83]=[CH:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].CC(C)[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23].CC(C)[C:11]1=[O+:12]C(C)C(C)[O:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC(C)(C)[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[O-:12])C=C1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=CC=C([C:11]([CH:10]([CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)=[O:12])C=C1 10,11=10,20;12=11,12"
